Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abnormal Liver Enzymes  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ year old man with a history of HLD 
and HTN who is admitted to ___ for acute hepatitis in the 
setting of recent illness and acetaminophen use. 
 
 Mr ___ was in in his USOH until one week PTA when he 
developed flulike symptoms, including fever, chills, and body 
aches. He was treated with Tamiflu (triaged by phone at that 
time) which he completed on ___. Fevers were low grade (100.7 - 
101.1). The majority of his symptoms resolved by ___, but he 
continued to have fevers/chills up until present. During the 
acute phase of his illness, Mr ___ would take between ___ 
tabs of 325mg acetaminophen in a day. He would also occasionally 
take acetaminophen containing Nyquil. In the past few days, he 
noted that his stool was gray and his urine very dark. He was 
seen by his PCP ___ ___ who noted him to be icteric. LFTs were 
drawn were markedly elevated. For this reason he was referred 
into ___ ED.  

 He specifically denies any abdominal pain, nausea, vomiting, 
diarrhea or constipation, headache, denies any 
dysuria/urgency/frequency. Denies any melena or blood in the 
stool. 
 
 ED COURSE:  
 - In the ED, initial vital signs were: 0 97 95 157/84 18 100% 
RA  
 - Exam was notable for: normal abd exam  
 - Labs were notable for: ALT: 204 AST: 84 TBili: 5.8 DBili: 3.8 
 
 - Imaging: RUQUS with steatosis, but patent ducts  
 - The patient was started on NAC  
 - Consults: Hepatology  
 - Vitals prior to transfer were: 97.7 72 116/66 17 98% RA  

 Upon arrival to the floor, Mr ___ is sleeping. He reports 
no complaints at present. No pains, no fevers.  

 
Past Medical History:
 Hyperlipidemia  
 Depression  
 Diverticulosis/Diverticulitis  
 Hypertension  
 Obesity 
 
Social History:
___
Family History:
Daughter ___  
 Father ___ CAD/PVD - Early; Hyperlipidemia  
 Maternal Grandmother ___  
 Mother Cancer - Breast; Glaucoma; Hypertension; Thyroid 
Disorder  
 Paternal Grandmother ___  
 Sister ___  
 No family history of liver disease. No autoimmune disorders, 
including vitiligo, T1DM, RA, SLE.
 
Physical Exam:
=================
ADMISSION EXAM
=================
VITALS: 105kg 97.9 149/68 79 18 100/RA  
 GENERAL: pleasant, well-appearing, in no apparent distress  
 HEENT: normocephalic, atraumatic, no conjunctival pallor + 
scleral icterus, PERRLA, EOMI, OP clear  
 NECK: supple, no LAD, no thyromegaly, JVP flat  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops  
 PULMONARY: CTAB, without wheezes or rhonchi  
 ABDOMEN: NABS, soft, non-tender, non-distended, no organomegaly 
 
 EXTREMITIES: warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred  
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

=================
DISCHARGE EXAM
=================
VITALS: 98.5  82  121/69  18  98% on RA 
 GENERAL: pleasant, well-appearing, in no apparent distress  
 HEENT: normocephalic, atraumatic, no conjunctival pallor, + 
scleral icterus, PERRLA, EOMI, OP clear  
 NECK: supple, no LAD, no thyromegaly, JVP flat  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops  
 PULMONARY: CTAB, without wheezes or rhonchi  
 ABDOMEN: NABS, soft, non-tender, non-distended, mild 
hepatomegaly
 EXTREMITIES: warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash, no palmar erythema
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. no asterixis
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 11:40PM BLOOD WBC-9.1 RBC-3.74* Hgb-11.5* Hct-33.7* 
MCV-90 MCH-30.7 MCHC-34.1 RDW-13.3 RDWSD-44.0 Plt ___
___ 11:40PM BLOOD Neuts-51.8 ___ Monos-10.4 Eos-2.0 
Baso-0.6 Im ___ AbsNeut-4.72 AbsLymp-3.04 AbsMono-0.94* 
AbsEos-0.18 AbsBaso-0.05
___ 11:20PM BLOOD ___ PTT-29.3 ___
___ 10:55PM BLOOD Glucose-98 UreaN-12 Creat-0.9 Na-138 
K-3.4 Cl-99 HCO3-26 AnGap-16
___ 10:55PM BLOOD ALT-206* AST-88* AlkPhos-407* 
TotBili-5.6* DirBili-4.7* IndBili-0.9
___ 10:55PM BLOOD Ethanol-NEG Acetmnp-NEG
===============
MICRO
===============

 
 
___ 2:20 am URINE

   URINE CULTURE (Pending):

===============
IMAGING
===============
RUQUS ___:  
 LIVER: The liver is diffusely echogenic. The contour of the 
liver is smooth. There is no focal liver mass. Hepatic cysts 
measuring 7 x 8 x 10 mm in the left lobe and 1.3 x 1.8 x 1.1 cm 
in the right lobe with a single thin septation are noted. The 
main portal vein is patent with hepatopetal flow. There is no 
ascites.  
 BILE DUCTS: No intrahepatic biliary dilation. The CBD measures 
5 mm.  
 GALLBLADDER: No e/o stones or gallbladder wall thickening.  
 PANCREAS: Imaged portion of the pancreas appears within normal 
limits, without masses or pancreatic ductal dilation, with 
portions of the pancreatic tail obscured by overlying bowel gas. 
 
 SPLEEN: Normal echogenicity, measuring 12.3 cm.  
 KIDNEYS: Limited views of the right kidney demonstrate no 
stone, mass, or hydronephrosis.  
 RETROPERITONEUM: Visualized portions of aorta and IVC are wnl.  

 IMPRESSION:  
 1. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.  
 2. No evidence of biliary obstruction.  
===============
DISCHARGE LABS
===============

___ 06:37AM BLOOD WBC-7.8 RBC-3.68* Hgb-11.3* Hct-32.7* 
MCV-89 MCH-30.7 MCHC-34.6 RDW-13.3 RDWSD-43.8 Plt ___
___ 06:37AM BLOOD ___ PTT-28.5 ___
___ 06:37AM BLOOD Glucose-104* UreaN-11 Creat-0.7 Na-138 
K-3.5 Cl-102 HCO3-24 AnGap-16
___ 06:37AM BLOOD ALT-181* AST-74* LD(LDH)-208 CK(CPK)-71 
AlkPhos-364* TotBili-5.3*
___ 06:37AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.___ with a history of HLD and HTN who is admitted to ___ for 
acute hepatitis in the setting of recent illness. He reports a 1 
week history of fevers, malaise, and myalgias. He was treated 
with oseltamivir for presumed influenza. He reported taking 
acetaminophen, but not exceeding 2g per day. He then presented 
with elevated transaminases (200s), AP 407, and Tb 5.6. He 
denied alcohol use, drug use, recent travel, or high risk sexual 
exposures. 

The differential diagnosis includes acute viral hepatitis 
(testing sent for HAV, HBV, HCV, CMV, EBV, HIV), 
medication-induced (including statin), and autoimmune ___, 
___, ALKM sent). His INR was 1.2, and he did not have 
encephalopathy, so there was no concern for fulminant liver 
failure. He was briefly treated with NAC, but his acetaminophen 
level returned negative and he denied significant acetaminophen 
use, so this was stopped. His symptoms improved, so he was 
discharged with plan for outpatient liver follow-up and repeat 
LFT testing.

TRANSITIONAL ISSUES: 
-HOLDING home simvastatin, aspirin, and fish oil until liver 
tests normalize
-f/u workup of abnormal LFTs, which includes: HAV, HBV, HCV, 
HIV, CMV, EBV serologies, HBV and HCV VL, ___, AMA, ___, IgGs, 
anti-liver kidney microsome antibody
-repeat LFTs, INR in 1 wk (approximately ___
-f/u with Liver as scheduled
 # CONTACT: ___ (Girlfriend) ___ 
 # CODE STATUS: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Lorazepam 0.5 mg PO Q8H:PRN Anxiety 
3. Simvastatin 10 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. flaxseed oil 1,000 mg oral DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. flaxseed oil 1,000 mg oral DAILY 
4. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
5. Lorazepam 0.5 mg PO Q8H:PRN Anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-acute hepatitis

SECONDARY DIAGNOSIS:
-depression
-hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ 
because of abnormal liver tests.

We sent tests to determine the cause of your liver disease. 
These are still pending, but many will return by the time you 
see Dr. ___.

You should not take your simvastatin, aspirin, or fish oil until 
you are instructed to re-start them by a liver physician.

Please follow-up with your primary care doctor ___ Dr. ___ 
___.

We wish you the best!
-Your ___ Team
 
Followup Instructions:
___